US06001832
a. 1-Benzyloxy-3-chloro-6-(4-methyl-2-phenyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxalin-2(1H)-one, hydrochloride
A solution of 20% phosgene in toluene (18.2 ml, 35 mmol) was added dropwise to a stirred solution of 1-benzyloxy-6-(4-methyl-2-phenyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxaline-2,3(1H,4H)-dione (8.8 g, 17.5 mmol) in 100 ml of dry N,N-dimethylformamide at 0° C. The mixture was stirred at room temperature overnight and the precipitated solid was isolated by filtration and washed with ether to give 8.0 g (84%) of the title compound.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 35 mmol, 18.2 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1-benzyloxy-6-(4-methyl-2-phenyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxaline-2,3(1H,4H)-dione | 17.5 mmol, 8.8 g | C(C1=CC=CC=C1)ON1C(C(NC2=CC(=C(C=C12)C(F)(F)F)N1C(=NC(=C1)C)C1=CC=CC=C1)=O)=O | C26H19F3N4O3
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-Benzyloxy-3-chloro-6-(4-methyl-2-phenyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxalin-2(1H)-one, hydrochloride | 8.0 g, 84% | Cl.C(C1=CC=CC=C1)ON1C(C(=NC2=CC(=C(C=C12)C(F)(F)F)N1C(=NC(=C1)C)C1=CC=CC=C1)Cl)=O | InChI=1S/C26H18ClF3N4O2.ClH/c1-16-14-33(24(31-16)18-10-6-3-7-11-18)21-13-20-22(12-19(21)26(28,29)30)34(25(35)23(27)32-20)36-15-17-8-4-2-5-9-17;/h2-14H,15H2,1H3;1H
